US08168784B2
(2E)-4,4-dimethyl-2-(((triisopropylsilyl)oxy)methylene)cyclohexanone
EXAMPLE 1 (21 g as an 18% solution in toluene) was charged to a 1 L flask followed by 2-methyltetrahydrofuran (300 mL). The reaction mixture was cooled to between 0-5° C., and triethylamine (20.67 g, 1.5 equiv) was charged maintaining a reaction temperature between 0-5° C. Triisopropylsilylchloride (TIPSCl) (28.9 g, 1.1 equiv) was slowly charged, maintaining a reaction temperature between 0-5° C. The reaction mixture was mixed at a temperature range between 0-5° C. and monitored by GC for completion. Heptane (430 mL) was added, and temperature was adjusted to 10° C. Water (300 mL) was added, maintaining an internal temperature below 15° C. The reaction mixture was mixed thoroughly, and the layers were separated. The organic layer was washed with water (2×200 mL), 20% aqueous NaCl (200 mL) and 20% aqueous NaCl (360 mL). The organic layer was distilled to approximately 100 mL and chased with toluene (280 mL). The title compound was stored as a toluene solution in the refrigerator. 1H NMR (400 MHz, CDCl3) δ 1.03 (s, 6 H) 1.07 (d, J=5.76 Hz, 14 H) 1.10 (s, 10 H) (with overlapping residual solvent resonances) 1.23 (dd, J=14.55, 6.59 Hz, 3 H) 1.26-1.29 (m, 2 H) (residual solvent) 1.64 (t, J=7.00 Hz, 2 H) 2.06 (s, 1 H), 2.26-2.28 (m, 2 H) 2.38 (t, J=7.00 Hz, 2 H) 7.55 (t, J=1.92 Hz, 1 H) ppm. Mass spec: DCI/NH3 M+1=311 amu; M+NH3=328 amu.

reactant | 2-methyltetrahydrofuran | 300 mL | CC1OCCC1 | C5H10O
reactant | triethylamine | 20.67 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | Triisopropylsilylchloride | 28.9 g, 1.1 equiv | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | Heptane | 430 mL | CCCCCCC | C7H16
reactant | Water | 300 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2E)-4,4-dimethyl-2-(((triisopropylsilyl)oxy)methylene)cyclohexanone | CC1(C\C(\C(CC1)=O)=C/O[Si](C(C)C)(C(C)C)C(C)C)C | C18H34O2Si
